US05766960
p-Hydroxyxstyrene was converted to 1-(p-acetoxyphenyl)ethanol and then dehydrated using liquid phase dehydration in the presence of potassium acid sulfate to produce p-acetoxystyrene, according to the method of Corson et al (J. Org. Chem. 1958 23 544). p-Acetoxystyrene (1.6 g) was added to a stirred solution of potassium hydroxide (1.4 g) in water (14 ml) at 5 degrees Centigrade. Stirring was continued at 0-5 degrees Centigrade for 2 h. The mixture was then washed with ether, and the aqueous phase neutralised with saturated sodium hydrogen carbonate solution. The product was extracted into dichloromethane, the solution was dried over anydrous calcium chloride and the solvent removed, to yield a cloudy oil (0.7 g) which solidified on standing to a waxy solid.

reactant | 1-(p-acetoxyphenyl)ethanol | C(C)(=O)OC1=CC=C(C=C1)C(C)O | C10H12O3
reactant | potassium acid sulfate | OS(=O)(=O)[O-].[K+]
product | p-acetoxystyrene | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
